US07417064B2
[3-(Benzo[b]thiophen-4-yloxy)-4-methyl-pentyl]-benzyl-methyl-amine
Using a method similar to that for [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine, 1-(benzyl-methyl-amino)-4-methyl-pentan-3-ol affords the title compound: mass spectrum (ion spray) m/z=354.3(M+1); 1H NMR (CDCl3) δ 7.49 (d, 1H), 7.43 (d, 1H), 7.31-7.19 (m, 7H), 6.85 (d, 1H), 4.48-4.44 (m, 1H), 3.51-3.43 (m, 2H), 2.61-2.48 (m, 2), 2.19 (s, 3H), 2.11-1.85 (m, 3H), 1.03 (d, 3H), 0.99 (d, 3H).

reactant | [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CC(C)C | C23H29NOS
reactant | 1-(benzyl-methyl-amino)-4-methyl-pentan-3-ol | C(C1=CC=CC=C1)N(CCC(C(C)C)O)C | C14H23NO
product | [3-(Benzo[b]thiophen-4-yloxy)-4-methyl-pentyl]-benzyl-methyl-amine | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)C(C)C | C22H27NOS
